US05466699
Preparation of (R)-3-(1-benzyl-1,2,3,6-tetrahydro-4-pyridyl)-5-(2-oxo -1,3-oxazolidin-4-ylmethyl)-1H-indole hydrate
1-Benzyl-4-piperidone (Aldrich, 2.8 g) was added to a stirred suspension of (R)-5-(2-oxo-1,3-oxazolidin-4-ylmethyl)-1H-indole (1.0 g), the immediate precursor of the product of Synthetic Example 16, in glac. acetic acid (20 ml) and stirred at 100° C. for 3 hours. The cooled mixture was evaporated in vacuo and the residue taken up in methanol, basified with NH4OH and evaporated in vacuo to give a dark tar. The latter was eluted through a silica column using DCM/EtOH/NH4OH (100:8:1) as eluant and treated with DCM. The resulting precipitate was filtered off to give the desired product as yellow crystals (0.25 g), mp 169°-170.5° C. Elemental analysis and 1H NMR were consistent with the proposed structure.

reactant | 1-Benzyl-4-piperidone | 2.8 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | (R)-5-(2-oxo-1,3-oxazolidin-4-ylmethyl)-1H-indole | 1.0 g | O=C1OC[C@H](N1)CC=1C=C2C=CNC2=CC1 | C12H12N2O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (R)-3-(1-benzyl-1,2,3,6-tetrahydro-4-pyridyl)-5-(2-oxo -1,3-oxazolidin-4-ylmethyl)-1H-indole hydrate | 0.25 g | O.C(C1=CC=CC=C1)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C[C@H]1NC(OC1)=O | InChI=1S/C24H25N3O2.H2O/c28-24-26-20(16-29-24)12-18-6-7-23-21(13-18)22(14-25-23)19-8-10-27(11-9-19)15-17-4-2-1-3-5-17;/h1-8,13-14,20,25H,9-12,15-16H2,(H,26,28);1H2/t20-;/m1./s1
